US05041453
A solution-suspension of (E)-2-cyano-6-[3-(7-chloro-2-quinolinylethenyl)phenoxymethyl]benzoxazole (950 mg, 2.17 mmol), sodium azide (432.1 mg, 6.51 mmol) and ammonium chloride (348.1 mg, 6.51 mmol) in DMF (15 ml) is heated to 100° C. for 7 hours and stirred at room temperature for 12 hours. The mixture is poured over ice-water and the pH is adjusted to 10 with 1N NaOH. The aqueous mixture is washed with ether and the pH adjusted to 4 with 1N-HCl. The precipitated solid is filtered and washed successively with water, ethanol and methylene chloride. Recrystallization from DMF affords (E)-5-(6-[3-(7-chloro-2-quinolinyl-ethenyl)phenoxymethyl ]benzoxazol-2-yl)tetrazole. (M.P. 272° C. (dec.))

reactant | (E)-2-cyano-6-[3-(7-chloro-2-quinolinylethenyl)phenoxymethyl]benzoxazole | 2.17 mmol, 950 mg | C(#N)C=1OC2=C(N1)C=CC(=C2)COC2=CC(=CC=C2)\C=C\C2=NC1=CC(=CC=C1C=C2)Cl | C26H16ClN3O2
reactant | sodium azide | 6.51 mmol, 432.1 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 6.51 mmol, 348.1 mg | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (E)-5-(6-[3-(7-chloro-2-quinolinyl-ethenyl)phenoxymethyl ]benzoxazol-2-yl)tetrazole | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(OCC2=CC3=C(N=C(O3)C3=NN=NN3)C=C2)C=CC1 | C26H17ClN6O2
